US05169859
Preparation of 3-(2-cyanophenylmethyl)-2-thiazolidinone
A mixture containing 3.09 g (0.03 mol) of 2-thiazolidinone, 11.2 g (0.081 mol) of potassium carbonate, 1.8 g (0.018 mol) of potassium hydrogen carbonate, 0.5 ml (0.027 mol) of water and 6.47 g (0.033 mol) of 2-bromomethylbenzonitrile in 30 ml of methyl isobutyl ketone is refluxed for 5 hours, then cooled down. After adding 30 ml of water the mixture is stirred for 30 minutes, the insoluble precipitate is filtered off, washed twice with 10 ml of water each and dried. After recrystallizing 4.71 g of crude product from 20 ml of ethanol under simultaneous clarification with activated carbon 3.39 g (51.8%) of white, crystalline title compound are obtained, m.p.: 116°-117° C.

reactant | 2-thiazolidinone | 0.03 mol, 3.09 g | S1C(NCC1)=O | C3H5NOS
reactant | potassium carbonate | 0.081 mol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen carbonate | 0.018 mol, 1.8 g | C(O)([O-])=O.[K+]
reactant | 2-bromomethylbenzonitrile | 0.033 mol, 6.47 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
solvent | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
solvent | water | 30 ml | O | H2O
solvent | water | 0.027 mol, 0.5 ml | O | H2O
product | 3-(2-cyanophenylmethyl)-2-thiazolidinone | C(#N)C1=C(C=CC=C1)CN1C(SCC1)=O | C11H10N2OS
